US06566362B2
1.4 cm3 of 1 N aqueous potassium hydroxide was added, with stirring, to a suspension of 0.5 g of ethyl 8-(3,3-dimethylpiperidin-1-yl)-9-fluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate in 15 cm3 of ethanol and 15 cm3 of water. The mixture was heated at about 100° C. for one hour. The suspension obtained was acidified by addition of 1.4 cm3 of 1 N aqueous hydrochloric acid. After cooling, the precipitate was dewatered, washed three times with 10 cm3 of water, three times with 10 cm3 of ethanol, and three times with 10 cm3 of ether. The solid was dried at about 80° C. at 1 kPa for 4 hours. 0.38 g of 8-(3,3-dimethylpiperidin-1-yl)-9-fluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylic acid was obtained in the form of a yellow solid, which melted with decomposition at about 286-7° C.

reactant | potassium hydroxide | 1 N, 1.4 cm3 | [OH-].[K+]
reactant | ethyl 8-(3,3-dimethylpiperidin-1-yl)-9-fluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 0.5 g | CC1(CN(CCC1)C1=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C=C1F)C | C23H26FN3O3
reactant | hydrochloric acid | 1 N, 1.4 cm3 | Cl | ClH
solvent | ethanol | 15 cm3 | C(C)O | C2H6O
solvent | water | 15 cm3 | O | H2O
product | 8-(3,3-dimethylpiperidin-1-yl)-9-fluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylic acid | 0.38 g | CC1(CN(CCC1)C1=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)O)=O)C=C1F)C | C21H22FN3O3
